US07531532B2
4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid {4-[4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide
To a solution of 4-[2-(azetidin-1-yl) ethyl]piperazine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide (36.3 mg) in N,N-dimethylformamide (1 ml) was added a solution of 0.25 M 2-phenylacetyl isocyanate in hexane (1.1 ml) under a nitrogen atmosphere, followed by stirring for 1 hr. The reaction mixture was partitioned between ethyl acetate (100 ml) and a saturated aqueous solution of sodium hydrogencarbonate (50 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (50 ml), water (50 ml), brine (50 ml) and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=9:1). Fractions containing the target compound were concentrated to give a residue, which was then suspended in diethyl ether (3.0 ml) and hexane (1.5 ml). The solid was filtered off and dried under aeration to provide the titled compound (28.6 mg, 56.0%) as white powder.

reactant | 4-[2-(azetidin-1-yl) ethyl]piperazine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide | 36.3 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)CCN2CCC2)C=C1 | C21H28N6O2
reactant | 2-phenylacetyl isocyanate | 0.25 M | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | hexane | 1.1 ml | CCCCCC | C6H14
solvent | diethyl ether | 3.0 ml | C(C)OCC | C4H10O
solvent | hexane | 1.5 ml | CCCCCC | C6H14
product | 4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid {4-[4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide | 28.6 mg, 56.0% | C1(=CC=CC=C1)CC(=O)NC(NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)CCN2CCC2)C=C1)=O | C30H35N7O4
